US05117057
A mechanically stirred solution of N'-t-butyl-N-t-butoxycarbonylhydrazine (61 g, 0.32 mol) in toluene (120 ml) cooled in an ice bath, was treated dropwise and simultaneously with 50% sodium hydroxide (31 g) in water (50 ml) and benzoyl chloride (45 g). The addition was complete in 20 minutes and the resulting mixture was warmed to room temperature and allowed to stir for one hour. The resulting white solid was filtered, washed with water and air dried to afford 94 g of N-t-butoxycarbonyl-N'-benzoyl-N'-t-butylhydrazine, mp. 167°-170° C.

reactant | N'-t-butyl-N-t-butoxycarbonylhydrazine | 0.32 mol, 61 g | C(C)(C)(C)NNC(=O)OC(C)(C)C | C9H20N2O2
reactant | sodium hydroxide | 31 g | [OH-].[Na+]
reactant | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 ml | O | H2O
solvent | benzoyl chloride | 45 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | N-t-butoxycarbonyl-N'-benzoyl-N'-t-butylhydrazine | 94 g | C(C)(C)(C)OC(=O)NN(C(C)(C)C)C(C1=CC=CC=C1)=O | C16H24N2O3
